US06002008
A mixture of 0.36 g of 4-[(3-bromophenyl)amino]-6,7-dihydroxy-3-quinolinecarbonitrile, 0.32 ml of ethyl iodide and 0.55 g of potassium carbonate in 4 ml of dimethylsulfoxide was stirred for 3 hours in an oil bath with heating. Most of the solvent was removed at reduced pressure. The mixture was mixed with ethyl acetate and water. The organic layer was washed with water and dried over magnesium sulfate. Solvent was removed to give 0.23 g of 4-[(3-bromophenyl)amino]-6,7-diethoxy-3-quinolinecarbonitrile which after recrystallization from ethyl acetate gave mp=173-175° C.

reactant | 4-[(3-bromophenyl)amino]-6,7-dihydroxy-3-quinolinecarbonitrile | 0.36 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)O)O)C#N | C16H10BrN3O2
reactant | ethyl iodide | 0.32 ml | C(C)I | C2H5I
reactant | potassium carbonate | 0.55 g | C([O-])([O-])=O.[K+].[K+]
reactant | dimethylsulfoxide | 4 ml | CS(=O)C | C2H6OS
product | 4-[(3-bromophenyl)amino]-6,7-diethoxy-3-quinolinecarbonitrile | 0.23 g | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC(=C(C=C12)OCC)OCC)C#N | C20H18BrN3O2
